US08633227B2
Large scale synthesis of (R)-3-((E)-2-(pyrrolidin-3-yl)vinyl)-5-(tetrahydropyran-4-yloxy)pyridine (14) mono-L-malate
A solution of (R)-3-((E)-2-(pyrrolidinium-3-yl)vinyl)-5-(tetrahydro-2H-pyran-4-yloxy)pyridinium oxalate (380 g) in de-ionized water (2.6 L) was stirred and cooled to around 10° C. with an ice bath. Aqueous sodium hydroxide (0.40 L of 25%) was added over a period of 15 min, keeping the temperature below 30° C. Chloroform (1.6 L) was then added, and the mixture was stirred vigorously for 20 min and filtered to remove insoluble sodium oxalate. The layers were allowed to separate, and the chloroform layer was combined with Silicycle Si-Thiol ® (21.6 g). The mixture was stirred and heated at 50-55° C. for 3-4 h, cooled to ambient temperature and filtered. The filtrate was concentrated under reduced pressure to produce a light red viscous oil (221 g). A portion of this free base (216 g) was dissolved in 2-propanol (1.2 L), heated to 70-75° C. and treated with solid L-malic acid (106 g), using a 2-propanol rinse (100 mL) to aid transfer. Dissolution of the solid produced an exotherm of 5-7° C. over 3-5 min. The mixture was kept at 75-78° C. for 10 min, to ensure complete dissolution of the solids, and then cooled slowly to ambient temperature (90 min). As the temperature approached 65° C., the solution was seeded with a few crystals of (R)-3-((E)-2-(pyrrolidin-3-yl)vinyl)-5-(tetrahydro-2H-pyran-4-yloxy)pyridine mono-L-malate salt. After stirring at ambient temperature for 1 h, the suspension was filtered. The collected solids were washed with 2-propanol (2×0.80 L), air dried for 30 minutes, and vacuum dried at 78° C. for 8 h. The resulting off-white material weighed 297 g and was >99% pure by HPLC.

reactant | L-malic acid | 106 g | C([C@@H](O)CC(=O)O)(=O)O | C4H6O5
reactant | (R)-3-((E)-2-(pyrrolidin-3-yl)vinyl)-5-(tetrahydro-2H-pyran-4-yloxy)pyridine mono-L-malate salt | C([C@@H](O)CC(=O)O)(=O)O.N1C[C@H](CC1)/C=C/C=1C=NC=C(C1)OC1CCOCC1
solvent | 2-propanol | 1.2 L | CC(C)O | C3H8O
product | (R)-3-((E)-2-(pyrrolidin-3-yl)vinyl)-5-(tetrahydropyran-4-yloxy)pyridine | N1C[C@H](CC1)/C=C/C=1C=NC=C(C1)OC1CCOCC1 | C16H22N2O2
